US04716178
A mixture of 22.0 g (0.10 mole) of 3,5-di-tertiary-butyl-p-benzoquinone, 15.1 g (0.11 mole) of m-ethoxyaniline, 125 ml of tetrahydrofuran and 1 ml of boron trifluoride etherate was heated at reflux for about 40 hours. The reaction mixture was evaporated to give an oil which was partitioned between hexane and 10% hydrochloric acid. The hexane phase was dried by filtering through Whatman IPS phase separation filter paper, then evaporated to give a solid. This solid was triturated with hexane, collected, rinsed with hexane, air dried and then recrystallized from ethanol to give a red solid. 1.0 g of this red solid was recrystallized from ethanol to give 0.9 g of red-orange crystalline 2,6-di-tertiary-butyl-4-(3'-ethoxyphenylimino)-2,5-cyclohexadiene-1-one, m.p. 105°-107° C. Calculated for C22H29NO2 : % C, 77.8; % H, 8.6; % N, 4.1; Found: % C, 77.4; % H, 8.5; % H, 3.9.

reactant | 3,5-di-tertiary-butyl-p-benzoquinone | 0.10 mole, 22.0 g | C(C)(C)(C)C1=CC(C=C(C1=O)C(C)(C)C)=O | C14H20O2
reactant | m-ethoxyaniline | 0.11 mole, 15.1 g | C(C)OC=1C=C(N)C=CC1 | C8H11NO
reactant | boron trifluoride etherate | 1 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2,6-di-tertiary-butyl-4-(3'-ethoxyphenylimino)-2,5-cyclohexadiene-1-one | 0.9 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC(=CC=C1)OCC)C(C)(C)C)=O | C22H29NO2
